US03974201
Preparation of methyl-N-(2-methylpentylidene)anthranilate.
226.5 g (= 1.5 g mole) of methyl anthranilate, 150 g (= 1.5 g mole) of 2-methylpentanal and 400 g of toluene are brought into a 2 liter reaction flask. Then the mixture is agitated under reflux for about 5 hours at a bottom temperature of 100°-120°C, 20 g of water being taken off through the reflux head. Then the solution is concentrated at a 30 cm Vigreux column under reduced pressure (about 20 mm Hg) to a bottom temperature of 110°C. 360 g of toluene are obtained and 347 g of evaporation-residue. The evaporation residue is fractionated at a 30 cm Vigreux column to obtain:

reactant | methyl anthranilate | 226.5 g | C(C=1C(N)=CC=CC1)(=O)OC | C8H9NO2
reactant | 2-methylpentanal | 150 g | CC(C=O)CCC | C6H12O
reactant | toluene | 400 g | C1(=CC=CC=C1)C | C7H8
solvent | water | 20 g | O | H2O
product | methyl-N-(2-methylpentylidene)anthranilate | COC(C=1C(N=CC(CCC)C)=CC=CC1)=O | C14H19NO2
